US07465795B2
4-Amino-8-(2-chloro-5-methoxyphenyl)-7-fluoro-cinnoline-3-carboxylic acid propylamide
The title compound was prepared from 4-amino-7-fluoro-8-iodo-N-propylcinnoline-3-carboxamide (250 mg, 0.67 mmol) and 2-chloro-5-methoxyphenyl boronic acid (279 mg, 1.50 mmol) according to Method A to afford a solid (181 mg, 72%). 1H NMR (500.333 MHz, CDCl3) δ 8.41 (s, 1H), 7.90 (dd, J=9.1, 5.1 Hz, 1H), 7.49 (t, J=8.7 Hz, 1H), 7.41 (dd, J=6.9, 2.7 Hz, 1H), 6.94-6.92 (m, 2H), 3.79 (s, 3H), 3.44 (q, J=6.7 Hz, 2H), 1.65 (sextet, J=7.2 Hz, 2H), 0.99 (t, J=7.3 Hz, 3H). MS APCI, m/z=389/391 (M+H). HPLC 2.13 min.

reactant | 4-amino-7-fluoro-8-iodo-N-propylcinnoline-3-carboxamide | 0.67 mmol, 250 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NCCC | C12H12FIN4O
reactant | 2-chloro-5-methoxyphenyl boronic acid | 1.50 mmol, 279 mg | ClC1=C(C=C(C=C1)OC)B(O)O | C7H8BClO3
product | 4-Amino-8-(2-chloro-5-methoxyphenyl)-7-fluoro-cinnoline-3-carboxylic acid propylamide | C(CC)NC(=O)C=1N=NC2=C(C(=CC=C2C1N)F)C1=C(C=CC(=C1)OC)Cl | C19H18ClFN4O2
